US06022888
1.2 mg of DMAP and 0.9 ml of chlorophenylformate were added to a dichloromethane solution containing 1.12 g of a known (4aS,6S,7R,7aR)-6,7-epoxy-1,4a,5,6,7,7a-hexahydro-1-hydroxy-7-methylcyclopenta[c]pyrane-4-carboxylic acid methylester followed by stirring for 1 hour at room temperature. The reaction mixture was then extracted with dichloromethane. After washing the organic phase with dilute hydrochloric acid and brine, it was dried over anhydrous magnesium sulfate. After distilling off the solvent under reduced pressure, the residue was purified by silica gel chromatography to obtain a colorless powder from the hexane-ethyl acetate eluate in the form of (1S,4aS,6S,7R,7aR)-6,7-epoxy-1,4a,5,6,7,7a-hexahydro-7-methyl-1-(phenoxycarbonyloxy)cyclopenta[c]pyrane-4-carboxylic acid methylester (1.16 g, yield: 70%). The physicochemical properties of this compound are as shown below.

reactant | chlorophenylformate | 0.9 ml | ClC1=C(C=CC=C1)C(=O)[O-]
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | (4aS,6S,7R,7aR)-6,7-epoxy-1,4a,5,6,7,7a-hexahydro-1-hydroxy-7-methylcyclopenta[c]pyrane-4-carboxylic acid methylester | 1.12 g | COC(=O)C=1[C@@H]2[C@@H](C(OC1)O)[C@@]1([C@H](C2)O1)C | C11H14O5
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
catalyst | DMAP | 1.2 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | (1S,4aS,6S,7R,7aR)-6,7-epoxy-1,4a,5,6,7,7a-hexahydro-7-methyl-1-(phenoxycarbonyloxy)cyclopenta[c]pyrane-4-carboxylic acid methylester | 1.16 g, yield: 70% | COC(=O)C=1[C@@H]2[C@@H]([C@@H](OC1)OC(=O)OC1=CC=CC=C1)[C@@]1([C@H](C2)O1)C | C18H18O7
